US04767769
Lithium aluminium hydride (5 g) was added portionwise to a stirred solution of methyl 3-piperidinocarbonylbenzoate (12.9 g) in dry tetrahydrofuran (200 ml) under nitrogen and the mixture was stirred under reflux for 3 hours. Excess reducing agent was destroyed by the dropwise addition of water under nitrogen with cooling. The reaction mixture was filtered through diatomaceous earth (sold under the trade name CELITE) which was washed with water and ethyl acetate and then the organic layer was separated. The aqueous layer was washed with ethyl acetate. The combined extracts were washed with water, dried and evaporated to give 3-piperidinomethylbenzylalcohol.

reactant | Lithium aluminium hydride | 5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-piperidinocarbonylbenzoate | 12.9 g | N1(CCCCC1)C(=O)C=1C=C(C(=O)OC)C=CC1 | C14H17NO3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-piperidinomethylbenzylalcohol | N1(CCCCC1)CC=1C=C(CO)C=CC1 | C13H19NO
